US07767677B2
Synthesis of {4-[6-(5-ethyl-[1,2,4]oxadiazol-3-yl)pyridazin-3-yl]piperazin-1-yl}-(2-trifluoromethylphenyl)methanone
To an ice cold solution of N-hydroxy-6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxamidine (0.200 g, 0.500 mmol) in dichloromethane (6 mL) was added triethylamine (0.5 mL), followed by then addition of propionyl chloride (0.05 mL, 0.55 mmol). The mixture was warmed up to room temperature and then stirred for 30 minutes. The solvent was removed in vacuo. The crude residue and cesium carbonate (0.200 g) were suspended in a mixture of 1,4-dioxane/water (1:1, 8 mL) and then heated to reflux overnight. The reaction mixture was cooled and concentrated to remove 1,4-dioxane and diluted with water (10 mL). The product was extracted with ethyl acetate (2×10 mL). The organic layers were combined, washed with water, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography and recrystallization from ethyl acetate/hexanes. The title compound was obtained as a white crystals in 52% yield (0.113 g). m.p. 204° C. 1H NMR (300 MHz, CDCl3) 7.93 (d, J=9.6 Hz, 1H), 7.90 (d, J=7.9 Hz, 1H), 7.68-7.50 (m, 2H), 7.32 (d, J=7.6 Hz, 1H), 6.97 (d, J=9.6 Hz, 1H), 4.11-3.90 (m, 6H), 3.34 (t, J=5.1 Hz, 2H), 2.95 (q, J=7.6 Hz, 2H), 1.44 (t, J=7.6 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 181.4, 167.6, 166.5, 142.0, 134.3, 134.2, 132.3, 129.4, 127.2, 127.1, 127.1, 126.8, 126.8, 126.7, 111.7, 46.4, 44.6, 44.2, 41.2, 20.3, 10.7. MS (ES+) m/z 433.0 (M+1).

reactant | N-hydroxy-6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxamidine | 0.500 mmol, 0.200 g | ONC(=N)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N6O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.55 mmol, 0.05 mL | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | {4-[6-(5-ethyl-[1,2,4]oxadiazol-3-yl)pyridazin-3-yl]piperazin-1-yl}-(2-trifluoromethylphenyl)methanone | 52% yield | C(C)C1=NC(=NO1)C1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C20H19F3N6O2
